US05491145
Production of ethyl 2,2-dimethyl-6-thiocyanohexanate
Using ethyl 6-bromo-2,2-dimethylhexanate as obtained in Reference Example 7and potassium thiocyanate, the title compound was produced in the same manner as in Reference Example 11.

reactant | ethyl 6-bromo-2,2-dimethylhexanate | BrCCCCC(C(=O)OCC)(C)C | C10H19BrO2
reactant | potassium thiocyanate | [S-]C#N.[K+]
product | ethyl 2,2-dimethyl-6-thiocyanohexanate | CC(C(=O)OCC)(CCCCSC#N)C | C11H19NO2S
